US05457099
To a suspension of 3-acetyl-tetrahydropyran-2,4,6-trione (25 g, 0.147 mol) and acetic acid (50 ml) was added a solution of m-bromoaniline (25.3 g, 0.147 mol) in acetic acid (30 ml) at room temperature. The reaction was continuted under the same conditions for 30 minutes. The reaction mixture was poured into ice-water (1 L) and then the separated solid was filtered off by aspiration. The residue was washed with water and dried. The obtained solid (54 g) was added in small portions to concentrated sulfuric acid (250 ml) and stirred at room temperature for 16 hours. The reaction mixture was poured into ice-water and then the separated solid was filtered off by aspiration. The residue was washed with methanol and acetone and then dried to give 7-bromo-l,2-dihydro-2-oxo-4-quinolineacetic acid (19.5 g) as a white solid. The solid (19.5 g) was suspended in methanol 500 ml. Thionyl chloride 15.1 ml (207 mmol) was added dropwise thereto at room temperature and the mixture was refluxed for 0.5 hour. The reaction mixture was poured into ice-water (1 L) and then the separated solid was filtered off by aspiration. The residue was washed with water and recrystallized from methanol to give the entitled compound as white crystals (mp 208°-210 ° C. (from methanol), 13.6 g, yield 31.2 %).

reactant | 3-acetyl-tetrahydropyran-2,4,6-trione | 0.147 mol, 25 g | C(C)(=O)C1C(OC(CC1=O)=O)=O | C7H6O5
reactant | m-bromoaniline | 0.147 mol, 25.3 g | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 7-bromo-l,2-dihydro-2-oxo-4-quinolineacetic acid | 19.5 g | BrC1=CC=C2C(=CC(NC2=C1)=O)CC(=O)O | C11H8BrNO3
